data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2816,3131,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([C:12]([F:13])([F:14])[F:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][NH:25][C:26](=[O:27])[C-:28]([N+:29]#[C:30][c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[C:37](=[O:38])[NH:39][CH3:40]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([C:12]([F:13])([F:14])[F:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:30]([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)=[N:29][C:28]2([C:26]([NH:25][CH3:24])=[O:27])[C:37](=[O:38])[NH:39][CH3:40],water,298.15,24.80050226222476,-37.83715164825933
748,810,[CH3:11][NH:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19]([C:20]([CH3:21])=[O:22])[o+:23]1.[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2](=[O:3])[C:4]12[CH:5]([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:15]1([C:13]([NH:12][CH3:11])=[O:14])[O:16][C:17](=[O:18])[C:19]2([C:20]([CH3:21])=[O:22])[O:23]1,water,298.15,14.48214267645984,-26.959508066207643
4963,5650,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[N-:19][O+:20]=[CH:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[N:19]([C:17]([NH:16][CH3:15])=[O:18])[O:20][CH:21]2[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,13.264869535605705,-20.57368610340056
452,494,[CH3:1][O:2][C:3]#[C:4][Br:5].[CH3:6][C:7]#[N+:8][C-:9]([C:10](=[O:11])[NH:12][CH3:13])[C:14](=[O:15])[NH:16][CH3:17]>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[C:7]([CH3:6])=[N:8][C:9]1([C:10](=[O:11])[NH:12][CH3:13])[C:14](=[O:15])[NH:16][CH3:17],water,298.15,16.006994996929954,-73.71907253868206
1487,1642,[CH3:15][NH:16][C:17](=[O:18])[c-:19]1[c:20](=[O:21])[o:22][c:23]([C:24]#[N:25])[n+:26]1[CH3:27].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]([F:7])([F:8])[F:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:23]1([C:24]#[N:25])[O:22][C:20](=[O:21])[C:19]2([C:17]([NH:16][CH3:15])=[O:18])[N:26]1[CH3:27],water,298.15,25.000824505680274,2.0046578547161387
3194,3605,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[c-:7]1[nH+:8][c:9]([C:10](=[O:11])[O:12][CH3:13])[o:14][c:15]1=[O:16]>>[CH2:1]1[CH2:2][C:7]2([C:5]([NH:4][CH3:3])=[O:6])[NH:8][C:9]1([C:10](=[O:11])[O:12][CH3:13])[O:14][C:15]2=[O:16],water,298.15,21.6534535485606,-10.790070574315768
4201,4806,[CH3:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:13]([C:11]([CH3:10])=[O:12])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[N:14]=[C:15]1[C:16]#[N:17],water,298.15,12.194351839544847,-33.57909972436708
4508,5141,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C-:15]([NH+:16]=[C:17]([C:18]#[N:19])[C:20]#[N:21])[C:22]([CH3:23])=[O:24]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:22]([CH3:23])=[O:24])[NH:16][C:17]2([C:18]#[N:19])[C:20]#[N:21],water,298.15,15.456718936002094,-13.496796424055267
2583,2864,[CH3:1][O:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]#[C:8][C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][NH:23][C:24](=[O:25])[C-:26]([CH3:27])[O+:28]=[CH:29][C:30](=[O:31])[O:32][CH3:33]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]2=[C:8]([C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:26]([C:24]([NH:23][CH3:22])=[O:25])([CH3:27])[O:28][CH:29]2[C:30](=[O:31])[O:32][CH3:33],water,298.15,10.590253020278071,-59.524551659933046
1128,1227,[CH3:18][C:19](=[O:20])[N-:21][O+:22]=[N:23][C:24]#[N:25].[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([CH3:7])([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([CH3:7])([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)[CH2:14][CH2:15][CH2:16][CH2:17]1)[N:23]([C:24]#[N:25])[O:22][N:21]2[C:19]([CH3:18])=[O:20],water,298.15,8.29848686506598,-67.52069090831023
